US07038087B2
Synthesis of (R,R)-2-hydroxycyclohexanecarboxylic Hydrazide
To a one-liter four-necked flask were added 102.5 g (595 mmol) of ethyl (R,R)-2-hydroxycyclohexanecarboxylate and 400 mL of 2-propanol and stirring was started. Hydrazine monohydrate (44.7 g; 893 mmol) was dropped thereinto at 13° C. taking 30 minutes. After the dropping, the mixture was stirred at 80° C. for 9.5 hours. Followed by, heating was stopped and the mixture was cooled to room temperature to precipitate the crystals. The crystals were filtered and washed with a small amount of 2-propanol. The resulting crystals were dried to give 30.10 g of the title compound. The yield was 32%.

reactant | ethyl (R,R)-2-hydroxycyclohexanecarboxylate | 595 mmol, 102.5 g | O[C@H]1[C@@H](CCCC1)C(=O)OCC | C9H16O3
reactant | Hydrazine monohydrate | 893 mmol, 44.7 g | O.NN
solvent | 2-propanol | 400 mL | CC(C)O | C3H8O
product | (R,R)-2-hydroxycyclohexanecarboxylic Hydrazide | 30.10 g, yield was 32% | O[C@H]1[C@@H](CCCC1)C(=O)NN | C7H14N2O2
